### PR TITLE
[Merged by Bors] - feat: Intersection of convex hulls is convex hull of intersection

### PR DESCRIPTION
**Pull request by YaelDillies**
when everything is affine independent. Also a related affine span lemma.

From LeanCamCombi

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/Combination.lean [hunk 1]
```diff
@@ -375,6 +375,13 @@ theorem Finset.mem_convexHull {s : Finset E} {x : E} : x ∈ convexHull R (s : S
   rw [Finset.convexHull_eq, Set.mem_setOf_eq]
 #align finset.mem_convex_hull Finset.mem_convexHull
 
+lemma Finset.mem_convexHull' {s : Finset E} {x : E} :
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/Combination.lean:378]: Can you add a docstring explaining how this is different?
```suggestion
/-- `Finset.mem_convexHull` without going via `centerMass`. -/
lemma Finset.mem_convexHull' {s : Finset E} {x : E} :
```
or similar

File: Mathlib/Analysis/Convex/Combination.lean [hunk 2]
```diff
@@ -551,3 +558,29 @@ theorem AffineBasis.convexHull_eq_nonneg_coord {ι : Type*} (b : AffineBasis ι
     rw [b.coord_apply_combination_of_mem hi hw₁] at hx
     exact hx
 #align affine_basis.convex_hull_eq_nonneg_coord AffineBasis.convexHull_eq_nonneg_coord
+
+variable {s t t₁ t₂ : Finset E}
+
+lemma AffineIndependent.convexHull_inter (hs : AffineIndependent R ((↑) : s → E))
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/Combination.lean:564]: `hs` seems like a rather strong assumption; the lemma is still true for `t₁ = {(0, 0), (0, 1), (0, 2)}` and `t₂ = {(0, 0), (1, 0), (2, 0)}`, right?

Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Combination.lean:564]: It is in general very wrong. Consider the intersection of two random triangles in the plane: it might be an hexagon!

This condition is the gluing condition in the definition of `Geometry.SimplicialComplex`. You can't expect it to be true in much greater generality than what I have here.

Comment (eric-wieser) [reply Mathlib/Analysis/Convex/Combination.lean:565]: I think `hs` is sufficiently weird here that a docstring is justified, and maybe a longer lemma name (`convexHull_inter_of_subset`?)

Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Combination.lean:565]: It's in the `AffineIndependent` namespace! I thought this would be enough to disambiguate.

File: Mathlib/Analysis/Convex/Combination.lean [hunk 3]
```diff
@@ -551,3 +559,30 @@ theorem AffineBasis.convexHull_eq_nonneg_coord {ι : Type*} (b : AffineBasis ι
     rw [b.coord_apply_combination_of_mem hi hw₁] at hx
     exact hx
 #align affine_basis.convex_hull_eq_nonneg_coord AffineBasis.convexHull_eq_nonneg_coord
+
+variable {s t t₁ t₂ : Finset E}
+
+/-- Two simplices glue nicely if the union of their vertices is affine independent. -/
+lemma AffineIndependent.convexHull_inter (hs : AffineIndependent R ((↑) : s → E))
+    (ht₁ : t₁ ⊆ s) (ht₂ : t₂ ⊆ s) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/Combination.lean:567]: Given the docstring, why not
```suggestion
/-- Two simplices glue nicely if the union of their vertices is affine independent. -/
lemma AffineIndependent.convexHull_inter (hs : AffineIndependent R ((↑) : (t₁ ∪ t₂) → E)) :
```
There should be some `mono` lemma that lets you recover your lemma via `union_subset`, right?

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean [hunk 4]
```diff
@@ -217,6 +230,25 @@ lemma AffineIndependent.card_le_finrank_succ [Fintype ι] {p : ι → P} (hp : A
...
+  obtain rfl | ht' := t.eq_empty_or_nonempty
+  · simpa [Set.subset_empty_iff] using hst
+  have := hs'.to_subtype
+  have := ht'.to_set.to_subtype
+  have direction_le := AffineSubspace.direction_le (affineSpan_mono k hst)
+  rw [AffineSubspace.affineSpan_coe, direction_affineSpan, direction_affineSpan,
+    ← @Subtype.range_coe _ (s : Set V), ← @Subtype.range_coe _ (t : Set V)] at direction_le
+  have finrank_le := add_le_add_right (Submodule.finrank_le_finrank_of_le direction_le) 1
+  erw [hs.finrank_vectorSpan_add_one] at finrank_le
+  simpa  using finrank_le.trans $ finrank_vectorSpan_range_add_one_le _ _
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean:250]:
```suggestion
  simpa using finrank_le.trans <| finrank_vectorSpan_range_add_one_le _ _
```

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean [hunk 5]
```diff
@@ -217,6 +230,25 @@ lemma AffineIndependent.card_le_finrank_succ [Fintype ι] {p : ι → P} (hp : A
   exact (affineIndependent_iff_le_finrank_vectorSpan _ _
     (tsub_add_cancel_of_le <| Nat.one_le_iff_ne_zero.2 Fintype.card_ne_zero).symm).1 hp
 
+open Finset in
+/-- If an affine independent finset is contained in the affine span of another finset, then it is
+smaller than that finset. -/
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean:235]: "smaller" to me implies `<`; can you clarify here?

Is the strict inequality true as well, with a strong `hst`?

File: Mathlib/Analysis/Convex/Combination.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Combination.lean:567]: This is a much less practical statement. Going from mine to yours is using `subset_union_left` + `subset_union_right` (discoverable) while going from yours to mine involves using `AffineIndependent.comp_embedding` + `Set.inclusion` + `Set.inclusion_injective` + `union_subset` (not very discoverable).

The translation from yours to mine would be simpler if we had an abbreviation for `AffineIndependent R ((↑) : s → E)`, but that feels out of scope for this PR.

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean]: I've added the strict inequality

File: Mathlib/Analysis/Convex/Combination.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Convex/Combination.lean:567]: In that case, can we have both, with a comment on my one stating that often yours is easier to use?

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean [hunk 6]
```diff
@@ -217,6 +230,44 @@ lemma AffineIndependent.card_le_finrank_succ [Fintype ι] {p : ι → P} (hp : A
...
+  · simp
+  obtain rfl | ht' := t.eq_empty_or_nonempty
+  · simpa [Set.subset_empty_iff] using hst
+  have := hs'.to_subtype
+  have := ht'.to_set.to_subtype
+  have direction_le := AffineSubspace.direction_le (affineSpan_mono k hst)
+  rw [AffineSubspace.affineSpan_coe, direction_affineSpan, direction_affineSpan,
+    ← @Subtype.range_coe _ (s : Set V), ← @Subtype.range_coe _ (t : Set V)] at direction_le
+  have finrank_le := add_le_add_right (Submodule.finrank_le_finrank_of_le direction_le) 1
+  erw [hs.finrank_vectorSpan_add_one] at finrank_le
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean:249]: It's a bit evil to have this `erw`. I believe it is due to the syntactic difference between `{x // x ∈ (s : Set V)}` and `{x // x ∈ (s : Finset V)}`. E.g., this works:
```lean
    have foo : finrank k (vectorSpan k (Set.range <| ((↑) : { x // x ∈ (s : Set V) } → V))) + 1 = _ :=
    hs.finrank_vectorSpan_add_one
  rw [foo] at finrank_le
```
Is there an easy way to sidestep this grossness?

File: Mathlib/Analysis/Convex/Combination.lean [hunk 7]
```diff
@@ -551,3 +559,37 @@ theorem AffineBasis.convexHull_eq_nonneg_coord {ι : Type*} (b : AffineBasis ι
     rw [b.coord_apply_combination_of_mem hi hw₁] at hx
     exact hx
 #align affine_basis.convex_hull_eq_nonneg_coord AffineBasis.convexHull_eq_nonneg_coord
+
+variable {s t t₁ t₂ : Finset E}
+
+/-- Two simplices glue nicely if the union of their vertices is affine independent. -/
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Combination.lean:565]: No, I do mean union here.

File: Mathlib/Analysis/Convex/Combination.lean [hunk 8]
```diff
@@ -551,3 +559,37 @@ theorem AffineBasis.convexHull_eq_nonneg_coord {ι : Type*} (b : AffineBasis ι
...
+    convexHull_mono inf_le_right).antisymm ?_
+  simp_rw [Set.subset_def, mem_inter_iff, Set.inf_eq_inter, ← coe_inter, mem_convexHull']
+  rintro x ⟨⟨w₁, h₁w₁, h₂w₁, h₃w₁⟩, w₂, -, h₂w₂, h₃w₂⟩
+  let w (x) : R := (if x ∈ t₁ then w₁ x else 0) - if x ∈ t₂ then w₂ x else 0
+  have h₁w : ∑ i in s, w i = 0 := by simp [Finset.inter_eq_right.2, *]
+  replace hs := hs.eq_zero_of_sum_eq_zero_subtype h₁w $ by
+    simp only [sub_smul, zero_smul, ite_smul, Finset.sum_sub_distrib, ← Finset.sum_filter, h₃w₁,
+      Finset.filter_mem_eq_inter, Finset.inter_eq_right.2 ht₁, Finset.inter_eq_right.2 ht₂, h₃w₂,
+      sub_self]
+  have ht (x) (hx₁ : x ∈ t₁) (hx₂ : x ∉ t₂) : w₁ x = 0 := by
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Combination.lean:579]: I quite like the new syntax actually. Think about how you would write this as a lemma. Would you rather write
```
lemma ht (x) (hx₁ : x ∈ t₁) (hx₂ : x ∉ t₂) : w₁ x = 0 := by
```
or
```
lemma ht : ∀ x, x ∈ t₁ → x ∉ t₂ → w₁ x = 0 := fun x hx₁ hx₂ ↦ by
```

File: Mathlib/Analysis/Convex/Combination.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Analysis/Convex/Combination.lean:565]: Oops yes, I get it now sorry.

File: Mathlib/Analysis/Convex/Combination.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Analysis/Convex/Combination.lean:579]: I am aware of the analogy to the way we inline hypotheses when stating lemmas and I might be guilty of just not being sufficiently used to this yet.

This is subjective so I don't insist.

File: Mathlib/Analysis/Convex/Combination.lean [hunk 9]
```diff
@@ -551,3 +559,37 @@ theorem AffineBasis.convexHull_eq_nonneg_coord {ι : Type*} (b : AffineBasis ι
...
+
+/-- Two simplices glue nicely if the union of their vertices is affine independent. -/
+lemma AffineIndependent.convexHull_inter (hs : AffineIndependent R ((↑) : s → E))
+    (ht₁ : t₁ ⊆ s) (ht₂ : t₂ ⊆ s) :
+    convexHull R (t₁ ∩ t₂ : Set E) = convexHull R t₁ ∩ convexHull R t₂ := by
+  refine (Set.subset_inter (convexHull_mono inf_le_left) $
+    convexHull_mono inf_le_right).antisymm ?_
+  simp_rw [Set.subset_def, mem_inter_iff, Set.inf_eq_inter, ← coe_inter, mem_convexHull']
+  rintro x ⟨⟨w₁, h₁w₁, h₂w₁, h₃w₁⟩, w₂, -, h₂w₂, h₃w₂⟩
+  let w (x) : R := (if x ∈ t₁ then w₁ x else 0) - if x ∈ t₂ then w₂ x else 0
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Analysis/Convex/Combination.lean:573]: As above, take it or leave it.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Combination.lean:573]: What about
```suggestion
  let w (x : E) : R := (if x ∈ t₁ then w₁ x else 0) - if x ∈ t₂ then w₂ x else 0
```

[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Analysis/Convex/Combination.lean:573]: Sure!

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean:249]: Yes indeed I used `erw` because of the difference between `{x // x ∈ (s : Set V)}` and `{x // x ∈ (s : Finset V)}`. Why do you think `erw` needs eradicating? It was designed for situations like this one.

File: Mathlib/Analysis/Convex/Combination.lean (hunk 9 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Analysis/Convex/Combination.lean]: What about `let w (x : E) : R :=`?

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Combination.lean]: How is that different to what I suggested?

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean (hunk 6 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean:249]: The thing I don't like about `erw` is that can be abused and it's impossible to tell why it is needed in any given instance so I usually factor it out.

I do however agree that this is reasonable use. If you wish to keep it I suggest adding a comment along the lines of:
```
-- We use `erw` to elide the difference between `{x // x ∈ (s : Set V)}` and `{x // x ∈ (s : Finset V)}`
```
and likewise at the other use below

File: Mathlib/Analysis/Convex/Combination.lean (hunk 9 above)
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Analysis/Convex/Combination.lean]: Eric's remark looks identical to me too: I suspect he wrote his remark into an unrefreshed comment box.

**Comment by ocfnash** [comment]
Thanks for these results btw, they're very desirable!

bors d+

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean:249]:
```suggestion
  -- We use `erw` to elide the difference between `↥s` and `↥(s : Set V)}`
  erw [hs.finrank_vectorSpan_add_one] at finrank_le
```

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean [hunk 10]
```diff
@@ -217,6 +230,44 @@ lemma AffineIndependent.card_le_finrank_succ [Fintype ι] {p : ι → P} (hp : A
...
+  · simpa [card_pos] using hst
+  obtain rfl | ht' := t.eq_empty_or_nonempty
+  · simp [Set.subset_empty_iff] at hst
+  have := hs'.to_subtype
+  have := ht'.to_set.to_subtype
+  have dir_lt := AffineSubspace.direction_lt_of_nonempty (k := k) hst $ hs'.to_set.affineSpan k
+  rw [direction_affineSpan, direction_affineSpan,
+    ← @Subtype.range_coe _ (s : Set V), ← @Subtype.range_coe _ (t : Set V)] at dir_lt
+  have finrank_lt := add_lt_add_right (Submodule.finrank_lt_finrank_of_lt dir_lt) 1
+  erw [hs.finrank_vectorSpan_add_one] at finrank_lt
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean:268]:
```suggestion
  -- We use `erw` to elide the difference between `↥s` and `↥(s : Set V)}`
  erw [hs.finrank_vectorSpan_add_one] at finrank_lt
```

**Comment by YaelDillies** [comment]
bors merge
